US04358532
(c) Synthesis of 5-amino-2-hexadecylsulfamoyl-1-naphthol
30 g of hexadecylamine was dissolved in 250 liters of acetone. To this solution was added gradually a solution of 40 g of 1-acetoxy-5-acetamino-naphthalene-2-sulfonyl chloride synthesized above in 150 ml of acetone while stirring, and, after completion of the addition, stirring was continued for about one hour at about 40° C. Then, the reaction solution was ice-cooled, and the precipitated crystals were collected by filtration and well washed with 1 liter of methanol. The crystals were refluxed for 8 hours together with 200 ml of ethanol, 30 g of NaOH, and 100 ml of water. After being allowed to cool to room temperature, the solution was neutralized with acetic acid, and the crystals thus precipitated were collected by filtration and recrystallized from an ethanol-water mixture solvent to obtain 22 g (54% yield) of product.

reactant | hexadecylamine | 30 g | C(CCCCCCCCCCCCCCC)N | C16H35N
reactant | 1-acetoxy-5-acetamino-naphthalene-2-sulfonyl chloride | 40 g | C(C)(=O)OC1=C(C=CC2=C(C=CC=C12)NC(=O)C)S(=O)(=O)Cl | C14H12ClNO5S
solvent | acetone | 250 liters | CC(=O)C | C3H6O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 5-amino-2-hexadecylsulfamoyl-1-naphthol | 22 g, 54% yield | NC1=C2C=CC(=C(C2=CC=C1)O)S(NCCCCCCCCCCCCCCCC)(=O)=O | C26H42N2O3S
